US05840974
To an ice-cooled solution of 4-bromophenoxyethanol (5 g, 23.0 mmol) in THF (30 ml) was added a suspension of sodium hydride (1.10 g, 46.1 mmol) in THF (30 ml), with stirring. After 20 minutes dimethyl sulfate (4.37 ml, 46.1 mmol) was added dropwise. The reaction mixture was stirred for 4 hours at room temperature then quenched slowly with saturated aq. ammonium chloride (50 ml). The mixture was extracted with ethyl acetate (100 ml) and the organic extract was washed successively with 1M hydrochloric acid (50 ml) and brine (50 ml), dried over anhydrous magnesium sulfate and filtered. The solvent was removed under reduced pressure to leave 4-(2-methoxy-ethoxy)-bromobenzene (5.5 g, ca. quant.) as a pale brown oil. 1H-NMR; δ (CDCl3), 7.36 (2H, d, J=9.1 Hz), 6.80 (2H, d, J=9.1 Hz), 4.09 (2H, t, J=4.7 Hz), 3.74 (2H, t, J=4.7 Hz) and 3.45 (3H, s).

reactant | 4-bromophenoxyethanol | 23.0 mmol, 5 g | BrC1=CC=C(OC(C)O)C=C1 | C8H9BrO2
reactant | sodium hydride | 46.1 mmol, 1.10 g | [H-].[Na+]
reactant | dimethyl sulfate | 46.1 mmol, 4.37 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(2-methoxy-ethoxy)-bromobenzene | 5.5 g | COCCOC1=CC=C(C=C1)Br | C9H11BrO2
